US08426411B2
Ethylenediamine (0.011 mL, 0.16 mmol) was added to a solution of tert-butyl(trans-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carboxamido)cyclohexyl)methylcarbamate (0.043 g, 0.079 mmol, prepared using Z from Preparation #AAAAA.1 and KOH, H with tert-butyl trans-4-aminocyclohexylmethylcarbamate [AMRI], HATU, and TEA) in THF (1 mL). TBAF (1.0 M solution in THF, 0.470 mL, 0.470 mmol) was added in one portion. The mixture was heated at about 60° C. After about 24 h, the solution was allowed to cool to ambient temperature and stirred for about 40 h. The volatiles were removed under reduced pressure. The residue was slurried in water (10 mL) and extracted with EtOAc (4×20 mL). The combined organic portions were washed with brine (10 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. The residue was purified by silica gel chromatography eluting with a gradient of 2-10% MeOH/DCM to give tert-butyl(trans-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carboxamido)cyclohexyl)methylcarbamate (0.0094 g, 29%): LC/MS (Table 1, Method n) Rt=0.55 min; MS m/z: 414 (M+H)+.

reactant | Ethylenediamine | 0.16 mmol, 0.011 mL | C(CN)N | C2H8N2
reactant | tert-butyl(trans-4-(6-((2-(trimethylsilyl)ethoxy)methyl)-6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carboxamido)cyclohexyl)methylcarbamate | 0.079 mmol, 0.043 g | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)NC(=O)C1=CN(C=2N=CC=3N(C21)C=NN3)COCC[Si](C)(C)C)=O | C26H41N7O4Si
reactant | TBAF | 0.470 mmol, 1.0 M, 0.470 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
product | tert-butyl(trans-4-(6H-pyrrolo[2,3-e][1,2,4]triazolo[4,3-a]pyrazine-8-carboxamido)cyclohexyl)methylcarbamate | 0.0094 g, 29% | C(C)(C)(C)OC(NC[C@@H]1CC[C@H](CC1)NC(=O)C1=CNC=2N=CC=3N(C21)C=NN3)=O | C20H27N7O3
